US08754085B2
Step 1: rac-Ethyl 7-(8-acetoxy-2,3-dip-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate
To rac-2,3-dip-tolyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate (Intermediate HF)(70 mg, 0.187 mmol) in 1,2-dichloroethane (3 ml) was added ethyl 7-oxoheptanoate (97 mg, 0.562 mmol). The reaction mixture was stirred at room temperature for 20 minutes and sodium triacetoxyborohydride (119 mg, 0.562 mmol) was added. The solution was stirred at room temperature overnight. Water (5 ml) was added and the reaction mixture was stirred vigorously for 15 minutes. The resulting mixture was extracted with DCM (×3). The combined organic extracts were dried over MgSO4, filtered and concentrated. The residue was passed through a pre-conditioned Isolute SCX-2 SPE column loading with MeOH and eluting with 1M ammonia in MeOH (20 ml). The solvent was removed in vacuo and the resulting crude was purified by chromatography on silica eluting with 0-100% EtOAc/iso-hexane to afford the title compound LC-MS Rt=1.58 mins; [M+H]+ 530.4, Method 2minLC_v003.

reactant | rac-2,3-dip-tolyl-5,6,7,8-tetrahydropyrido[2,3-b]pyrazin-8-yl acetate | 0.187 mmol, 70 mg | C(C)(=O)OC1CCNC2=NC(=C(N=C21)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C | C23H23N3O2
reactant | ethyl 7-oxoheptanoate | 0.562 mmol, 97 mg | O=CCCCCCC(=O)OCC | C9H16O3
reactant | sodium triacetoxyborohydride | 0.562 mmol, 119 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | 5 ml | O | H2O
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
product | rac-Ethyl 7-(8-acetoxy-2,3-dip-tolyl-7,8-dihydropyrido[2,3-b]pyrazin-5(6H)-yl)heptanoate | C(C)(=O)OC1CCN(C2=NC(=C(N=C21)C2=CC=C(C=C2)C)C2=CC=C(C=C2)C)CCCCCCC(=O)OCC | C32H39N3O4
